US06858638B2
1-Acetyl-1H-indazol-5-yl 3-fluorobenzenesulfonate can be obtained in the following way: a solution de 0.15 g of 3-fluorobenzenesulfonyl chloride in 2 ml of tetrahydrofuran is run in dropwise into a solution, cooled to a temperature in the region of 0° C., of 132 mg of 1-acetyl-5-hydroxy-1H-indazole in 5 ml of anhydrous tetrahydrofuran and of 0.2 ml of triethylamine. The reaction medium is maintained with stirring for 3 hours at a temperature in the region of 0° C. and is then brought back to a temperature in the region of 20° C., hydrolyzed with 15 ml of distilled water and extracted with three times 15 ml of ethyl acetate. The pooled organic extracts are dried over magnesium sulfate, filtered and concentrated under reduced pressure. A white powder is thus obtained, which powder is resuspended in diisopropyl ether, separated by filtration, washed with diisopropyl ether and dried under reduced pressure. 193 mg of 1-acetyl-1H-indazol-5-yl 3-fluorobenzenesulfonate are thus obtained in the form of a white solid (Rf=0.50, silica gel thin layer chromatography, eluent: cyclohexane/dichloromethane (1/9 by volume)).

reactant | 3-fluorobenzenesulfonyl chloride | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 1-acetyl-5-hydroxy-1H-indazole | 132 mg | C(C)(=O)N1N=CC2=CC(=CC=C12)O | C9H8N2O2
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 1-acetyl-1H-indazol-5-yl 3-fluorobenzenesulfonate | 193 mg | FC=1C=C(C=CC1)S(=O)(=O)OC=1C=C2C=NN(C2=CC1)C(C)=O | C15H11FN2O4S
